US08703768B2
Step 1: (3-Amino-6-methyl-pyridin-2-yl)-azetidin-1-yl-methanone
To a stirred mixture of 3-amino-6-methylpicolinic acid (525 mg, 2.17 mmol) and azetidine (124 mg, 146 μl, 2.17 mmol) at r.t. in THF (15 ml) under an argon atmosphere were added HATU (1.65 g, 4.35 mmol) and 4-methylmorpholine (719 μl, 6.52 mmol). The mixture was heated to 70° C. overnight, then cooled to r.t. and concentrated. The crude product was purified by silica gel chromatography using a n-heptane/EtOAc gradient to give the title compound (272 mg, 65%) as off-white solid.

reactant | 3-amino-6-methylpicolinic acid | 2.17 mmol, 525 mg | NC=1C(=NC(=CC1)C)C(=O)O | C7H8N2O2
reactant | azetidine | 2.17 mmol, 146 μl, 124 mg | N1CCC1 | C3H7N
reactant | HATU | 4.35 mmol, 1.65 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-methylmorpholine | 6.52 mmol, 719 μl | CN1CCOCC1 | C5H11NO
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | (3-Amino-6-methyl-pyridin-2-yl)-azetidin-1-yl-methanone | 272 mg, 65% | NC=1C(=NC(=CC1)C)C(=O)N1CCC1 | C10H13N3O
